US04353898
3α-Hydroxy-11-hydroxyimino-5α-androstane-17β-carboxylic acid
Hydroxylamine hydrochloride (4 g) was added to a water cooled solution of sodium hydroxide (50%; 16 ml). This mixture was added to a solution of 3α-hydroxy-11-oxo-5α-androstane-17β-carboxylic acid (1.5 g) in ethanol (70 ml). The mixture was heated at reflux for 24 h, cooled and brought to pH 1 with concentrated HCl solution. Water (800 ml) was added and the precipitate (1.42 g) was collected by filtration, washed with water (2×300 ml) and dried. Crystallisation from ethyl acetate gave the title compound (1 g) m.p. 250°-253° C. (dec) [α]D +124° (EtOH C=1%).

reactant | Hydroxylamine hydrochloride | 4 g | Cl.NO
reactant | sodium hydroxide | 16 ml | [OH-].[Na+]
reactant | 3α-hydroxy-11-oxo-5α-androstane-17β-carboxylic acid | 1.5 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(CC1)C)=O)C(=O)O | C20H30O4
reactant | HCl | Cl | ClH
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | Water | 800 ml | O | H2O
product | 3α-Hydroxy-11-hydroxyimino-5α-androstane-17β-carboxylic acid | 1 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(CC1)C)=NO)C(=O)O | C20H31NO4
